US07625914B2
2.9 g (5 mmol) of methyl 2(S)-(2-benzoylphenylamino)-3-(4-{5-[(tert-butoxycarbonylmethylamino)methyl]thiophen-3-yl}phenyl)propanoate are placed in 30 ml of dichloromethane and 2.5 ml (32 mmol) of trifluoroacetic acid. After stirring at room temperature for 18 hours, the reaction medium is evaporated to dryness. 2.4 g (100%) of methyl 2(S)-(2-benzoylphenylamino)-3-[4-(5-methylaminomethylthiophen-3-yl)phenyl]propanoate are obtained.

reactant | methyl 2(S)-(2-benzoylphenylamino)-3-(4-{5-[(tert-butoxycarbonylmethylamino)methyl]thiophen-3-yl}phenyl)propanoate | 5 mmol, 2.9 g | C(C1=CC=CC=C1)(=O)C1=C(C=CC=C1)N[C@H](C(=O)OC)CC1=CC=C(C=C1)C1=CSC(=C1)CNCC(=O)OC(C)(C)C | C34H36N2O5S
reactant | trifluoroacetic acid | 32 mmol, 2.5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | methyl 2(S)-(2-benzoylphenylamino)-3-[4-(5-methylaminomethylthiophen-3-yl)phenyl]propanoate | 2.4 g, 100% | C(C1=CC=CC=C1)(=O)C1=C(C=CC=C1)N[C@H](C(=O)OC)CC1=CC=C(C=C1)C1=CSC(=C1)CNC | C29H28N2O3S
